************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113_DSP
* Top Cell Name: Full_Adder_Cobar
* View Name:     schematic
* Netlisted on:  Dec 14 15:03:16 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113_DSP
* Cell Name:    Full_Adder_Cobar
* View Name:    schematic
************************************************************************

.SUBCKT Full_Adder_Cobar A B CI CO_ GND VDD
*.PININFO A:I B:I CI:I CO_:O GND:B VDD:B
MNM4 CO_ A net36 GND n18 W=440n L=180n m=1
MNM3 CO_ CI net18 GND n18 W=440n L=180n m=1
MNM2 net36 B GND GND n18 W=440n L=180n m=1
MNM1 net18 B GND GND n18 W=440n L=180n m=1
MNM0 net18 A GND GND n18 W=440n L=180n m=1
MPM4 net22 A VDD VDD p18 W=880n L=180n m=1
MPM3 net22 B VDD VDD p18 W=880n L=180n m=1
MPM2 net35 B VDD VDD p18 W=880n L=180n m=1
MPM1 CO_ A net35 VDD p18 W=880n L=180n m=1
MPM0 CO_ CI net22 VDD p18 W=880n L=180n m=1
.ENDS

