************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113_DSP
* Top Cell Name: TG
* View Name:     schematic
* Netlisted on:  Dec 14 21:04:54 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113_DSP
* Cell Name:    TG
* View Name:    schematic
************************************************************************

.SUBCKT TG A G GND G_ VDD Z
*.PININFO A:I G:I G_:I Z:O GND:B VDD:B
MNM0 A G Z GND n18 W=220n L=180n m=1
MPM0 A G_ Z VDD p18 W=220n L=180n m=1
.ENDS

